US05859007
C. 3-[1-(tert-Butyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylmethyl]-indazole-1-carboxylic acid tert-butyl ester
To a stirred slurry of 514 mg (1.17 mmol) N-tert-Butyl-2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-phenyl-acetamide, prepared as in Part B, in 15 mL THF cooled to 0° C. is added 1.28 mL (1.28 mmol, 1.1 equiv) of 1M Sodium bis(trimethylsilyl)amide in THF at ambient temperature and stirred 0.5 h. To this solution is added 381 mg (1.22 mmol, 1.05 equiv) 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole and the resultant reaction mixture stirred 1 h at 0° C. followed by 18 h at ambient temperature. The solvent is removed in vacuo and the residue taken into EtOAc (50 mL), washed with H2O (30 mL) and brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by flash chromatography on 20 g silica gel eluted with EtOAc/Hexanes (1:3, 350 mL). Appropriate fractions were combined and concentrated in vacuo to give 263 mg (0.392 mmol) of the title compound as a white foam: 1H NMR (CDCl3, 300 MHz) δ8.04 (d, 1H, J=8.4), 7.89 (d, 1H, J=7.9), 7.51-7.20 (m, 14H), 7.10 (m, 1H), 6.94 (m, 1H), 4.28 (m, 1H), 4.20-4.06 (m, 2H), 3.84 (m, 1H), 3.56 (m,1H), 1.66 (s, 9H), 1.39 (s, 9H); TLC Rf =0.16 (EtOAc/Hexanes, 1:3).

reactant | N-tert-Butyl-2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-phenyl-acetamide | 1.17 mmol, 514 mg | C(C)(C)(C)N(C(CN1C2=C(N(C(CC1=O)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C27H27N3O3
reactant | Sodium bis(trimethylsilyl)amide | 1.28 mmol, 1M, 1.28 mL, 1.1 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 1.22 mmol, 381 mg, 1.05 equiv | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[1-(tert-Butyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylmethyl]-indazole-1-carboxylic acid tert-butyl ester | 0.392 mmol, 263 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)C(C(N)=O)(C1=CC=CC=C1)C(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H41N5O5
